US05849732
A mixture of 10.0 g of 4-octylaniline, 8.6 g of bromocyclo-heptane, 13.5 g of potassium carbonate and 50 ml of hexamethylphosphoramide (HMPA) was stirred at 90° to 100° C. for 7 hours. After cooling, a saturated saline solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=50:1) to give 7.79 g of N-cycloheptyl-N-(4-octylphenyl)amine (yield: 53%, brown oily product, IR (film): 3390, 2925, 2854, 1617, 1518 cm-1).

reactant | 4-octylaniline | 10.0 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
reactant | bromocyclo-heptane | 8.6 g | BrC1CCCCCC1 | C7H13Br
reactant | potassium carbonate | 13.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | N-cycloheptyl-N-(4-octylphenyl)amine | 7.79 g, yield: 53% | C1(CCCCCC1)NC1=CC=C(C=C1)CCCCCCCC | C21H35N
